US04254135
Cis-4-acetylamino-N-(1-cyclohexyl-4-hydroxy-3-pyrrolidinyl)benzamide.
A solution of 6.0 g (0.02 mole) of cis-4-amino-N-(1-cyclohexyl-4-hydroxy-3-pyrrolidinyl)benzamide in 250 ml of tetrahydrofuran was mixed with 8 g of powdered anhydrous potassium carbonate and stirred while 1.6 g (0.02 mole) of acetyl chloride was added dropwise. The mixture was stirred for 18 hr. The tetrahydrofuran was removed and the residue was partitioned between water and chloroform. The chloroform was separated and in a short time the product precipitated. The precipitate was filtered and then triturated with boiling acetone, filtered and dried. The yield of product melting at 200.0°-203.0° C. was 5.1 g (74%).

reactant | cis-4-amino-N-(1-cyclohexyl-4-hydroxy-3-pyrrolidinyl)benzamide | 0.02 mole, 6.0 g | NC1=CC=C(C(=O)N[C@@H]2CN(C[C@@H]2O)C2CCCCC2)C=C1 | C17H25N3O2
reactant | potassium carbonate | 8 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetyl chloride | 0.02 mole, 1.6 g | C(C)(=O)Cl | C2H3ClO
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | Cis-4-acetylamino-N-(1-cyclohexyl-4-hydroxy-3-pyrrolidinyl)benzamide | C(C)(=O)NC1=CC=C(C(=O)N[C@@H]2CN(C[C@@H]2O)C2CCCCC2)C=C1 | C19H27N3O3
